US09238631B2
g) di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-[3-tert-butoxy-4-(2-fluoroethoxy)benzyl]-L-glutamate
To a stirred solution of 64 mg (0.11 mmol) di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-[3-tert-butoxy-4-(2-hydroxyethoxy)benzyl]-L-glutamate in 0.5 ml THF was added 102.7 mg (0.34 mmol) nonafluoro 1-butanesulphonic acid fluoride, 54.8 mg (0.34 mmol) triethylamine trihydrofluoride and 102 mg (1.01 mmol) triethyl amine. The reaction mixture is stirred for 3 days. Further 34 mg (0.11 mmol) nonafluoro 1-butanesulphonic acid fluoride, 18 mg (0.11 mmol) triethylamine trihydrofluoride and 34 mg (0.33 mmol) triethyl amine were added. The reaction mixture is stirred for 3 hours and is concentrated in vacuo. The crude product is purified by column chromatography (silica gel, hexane/ethylacetate gradient: 12:1→1:1). The desired product was obtained in 37.4% yield (64.2 mg, 0.04 mmol).

reactant | di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-[3-tert-butoxy-4-(2-hydroxyethoxy)benzyl]-L-glutamate | 0.11 mmol, 64 mg | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=CC(=C(C=C1)OCCO)OC(C)(C)C)C(=O)OC(C)(C)C | C31H51NO9
reactant | nonafluoro 1-butanesulphonic acid fluoride | 0.34 mmol, 102.7 mg | FC(C(C(C(S(=O)(=O)F)(F)F)(F)F)(F)F)(F)F | C4F10O2S
reactant | triethylamine trihydrofluoride | 0.34 mmol, 54.8 mg | F.F.F.C(C)N(CC)CC
reactant | triethyl amine | 1.01 mmol, 102 mg | C(C)N(CC)CC | C6H15N
reactant | nonafluoro 1-butanesulphonic acid fluoride | 0.11 mmol, 34 mg | FC(C(C(C(S(=O)(=O)F)(F)F)(F)F)(F)F)(F)F | C4F10O2S
reactant | triethylamine trihydrofluoride | 0.11 mmol, 18 mg | F.F.F.C(C)N(CC)CC
reactant | triethyl amine | 0.33 mmol, 34 mg | C(C)N(CC)CC | C6H15N
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
product | di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-[3-tert-butoxy-4-(2-fluoroethoxy)benzyl]-L-glutamate | 37.4% yield | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=CC(=C(C=C1)OCCF)OC(C)(C)C)C(=O)OC(C)(C)C | C31H50FNO8
